US07087605B2
N-{1-[3-(4-Methyl-1-naphthyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}cyclopentanecarboxamide
In analogy to the procedure for Example 36A, 600 mg (2.04 mmol) 6-(1-aminopropyl)-3-(4-methyl-1-naphthyl)-1,2,4-triazin-5(4H)-one, 270 mg (2.04 mmol) cyclopentanecarbonyl chloride and proportionate amounts of the other reagents are used. The crude product is used in the next step without further purification.

reactant | 6-(1-aminopropyl)-3-(4-methyl-1-naphthyl)-1,2,4-triazin-5(4H)-one | 2.04 mmol, 600 mg | NC(CC)C=1C(NC(=NN1)C1=CC=C(C2=CC=CC=C12)C)=O | C17H18N4O
reactant | cyclopentanecarbonyl chloride | 2.04 mmol, 270 mg | C1(CCCC1)C(=O)Cl | C6H9ClO
product | N-{1-[3-(4-Methyl-1-naphthyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}cyclopentanecarboxamide | CC1=CC=C(C2=CC=CC=C12)C1=NN=C(C(N1)=O)C(CC)NC(=O)C1CCCC1 | C23H26N4O2
